US07615532B2
Synthesis of NεB29—N-(L-Glu-OC(CH2)14CO—) des(B30) Human Insulin
This compound was prepared in analogy with example 4, via reaction of L-Glu(OtBu)-OtBu with succinimidyl hexadecandioate followed by activation with TSTU, coupling with Des(B30) human insulin and deprotection by TFA. LCMS 6130.8, calculated 6132.2.

reactant | L-Glu(OtBu)-OtBu | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C13H25NO4
reactant | succinimidyl hexadecandioate | C(CCCCCCCCCCCCCCC(=O)[O-])(=O)ON1C(CCC1=O)=O
reactant | TSTU | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | L-Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
